US04341864
(b) 2-(3-chloro-2,2,3-trifluoro-propionamido)-5-nitrophenol
146.8 g (1.1 mole) of anhydrous aluminium chloride were added with stirring to a suspension of 154 g (1 mole) of 2-amino-5-nitrophenol. The brownish black solution was cooled down to 20° C. In 20 min 181 g (1 mole) of 3-chloro-2,2,3-trifluoro-propionyl chloride were added thereto, the temperature being kept at 30° C. by cooling. After 3 hours of stirring at room temperature the solution was poured out in 2 l of icewater and 200 ml of concentrated hydrochloric acid. Stirring was continued for 1 hour. The precipitate was collected and rinsed with water until free from acid.

reactant | aluminium chloride | 1.1 mole, 146.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-amino-5-nitrophenol | 1 mole, 154 g | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | 3-chloro-2,2,3-trifluoro-propionyl chloride | 1 mole, 181 g | ClC(C(C(=O)Cl)(F)F)F | C3HCl2F3O
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | 2-(3-chloro-2,2,3-trifluoro-propionamido)-5-nitrophenol | ClC(C(C(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])O)(F)F)F | C9H6ClF3N2O4
